US09216954B2
A Lawesson's reagent (50 mg, 0.12 mmol) was added to a THF (2 mL) solution of [(2,6-difluorophenylcarbamoyl)methyl]carbamic acid tert-butyl ester (52 mg, 0.18 mmol) in an argon atmosphere, and the mixture was refluxed with heating overnight. After evaporating the solvent, the residue was purified by silica gel column chromatography (13 g, hexane:acetone=10:1 to 8:1) to obtain [(2,6-difluorophenylthiocarbamoyl)methyl]carbamic acid tert-butyl ester (23 mg) as a colorless crystalline substance.

reactant | Lawesson's reagent | 0.12 mmol, 50 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | [(2,6-difluorophenylcarbamoyl)methyl]carbamic acid tert-butyl ester | 0.18 mmol, 52 mg | C(C)(C)(C)OC(NCC(NC1=C(C=CC=C1F)F)=O)=O | C13H16F2N2O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [(2,6-difluorophenylthiocarbamoyl)methyl]carbamic acid tert-butyl ester | 23 mg, Yield: 42% | C(C)(C)(C)OC(NCC(NC1=C(C=CC=C1F)F)=S)=O | C13H16F2N2O2S
